US04348398
(a) 6-Acetyl-2-ethoxy-4-hydroxyquinoline A
A mixture of 14.5 gm. (0.107 moles) of p-aminoacetophenone and 19.0 gm. (0.097 moles) of ethyl (1-ethoxyformimidoyl)acetate hydrochloride (Chem. Ber., 100, 1428 (1967)) in 500 ml. of dry CH2Cl2 was stirred at 22° C. for 18 hours. The reaction, containing a precipitate of NH4Cl, was washed successively with ice cold aqueous solutions of 1 N HCl (2×100 ml), in Na2CO3 (2×100 ml) and saturated NaCl, and dried over Na.SO4. Filtration and evaporation yielded 20 gm. of crude ethyl [1-ethoxy(N-p-acetylphenyl)formimidoyl]acetate. This crude material was stirred and heated at 250° in 150 ml. of Dowtherm A for 30 minutes. Cooling dilution with 400 ml. of 1:1 ether-hexane and filtration of the precipitate yielded 12 gm. of the title compound. By base extraction of the filtrate and acidification, a further 2.5 gm. of product was obtained, mp. 210°-219° C. (65% yield).

reactant | p-aminoacetophenone | 0.107 moles | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | ethyl (1-ethoxyformimidoyl)acetate hydrochloride | 0.097 moles | Cl.C(C)OC(=N)CC(=O)OCC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ethyl [1-ethoxy(N-p-acetylphenyl)formimidoyl]acetate | C(C)OC(=NC1=CC=C(C=C1)C(C)=O)CC(=O)OCC | C15H19NO4
reactant | Dowtherm A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Acetyl-2-ethoxy-4-hydroxyquinoline | 65% yield | C(C)(=O)C=1C=C2C(=CC(=NC2=CC1)OCC)O | C13H13NO3
